US04221788
2-(4-chlorobenzyl)perhydroazepine
Add a solution of 10 mmol of n-butyllithium in n-hexane to a solution of 1.01 g of diisopropylamine in 100 ml of tetrahydrofuran at 78° and pass argon through it. Stir the mixture for 5 minutes at room temperature and then cool it down again to -78°. Add a solution of 1.28 g of n-nitrosoperhydroazepine and stir for 1 hour. Then add 4.1 g of 4-chlorobenzyl bromide in a small amount of diethyl ether. After stirring for another 5 hours at -78° add 5 ml of glacial acetic acid. Warm the mixture up to room temperature and pour it into 100 ml of dichloromethane-saturated sodium chloride solution. Free the organic phase from the solvent and then solve it in methanol. After addition of 2 g of freshly prepared Laney nickel, pass hydrogen through the solution while stirring vigorously. Filter off the catalyst, and wash the catalyst with methanol. Concentrate the methanolic filtrate. Treat the oily residue with ethanol-ethereal hydrochloric acid to obtain the hydrochloride of the title compound: m.p. 176° to 178°.

reactant | n-butyllithium | 10 mmol | C(CCC)[Li]
reactant | diisopropylamine | 1.01 g | C(C)(C)NC(C)C | C6H15N
reactant | 4-chlorobenzyl bromide | 4.1 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | hydrogen | [H][H] | H2
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
catalyst | nickel | [Ni] | Ni
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-chlorobenzyl)perhydroazepine | ClC1=CC=C(CC2NCCCCC2)C=C1 | C13H18ClN
